R1 ( net406 net340)  R=7.4E6
T2 ( net340 net26 vdd! vdd!)  pfet  L=1.23E-6 W=2.57E-6
T3 ( net510 net26 vdd! vdd!)  pfet  L=1.23E-6 W=2.57E-6
T4 ( 0 net340 net26 vdd!)  pfet  L=1.23E-6 W=2.57E-6
R5 (net397 net33) R=2.3E2
R6 (net92 net124) R=2.1E2
T7 (net156 net17 net17 0) nfet L=5.82E-6 W=6.99E-6
R8 ( vdd! net458)  R=9.2E0
T9 ( net458 net24 vdd! vdd!)  pfet  L=3.13E-6 W=7.82E-6
T10 ( net356 net24 vdd! vdd!)  pfet  L=3.13E-6 W=7.82E-6
T11 ( 0 net458 net24 vdd!)  pfet  L=3.13E-6 W=7.82E-6
R12 (net421 vdd!) R=7.3E3
C13 (net394 net411) C=1.0E-8
R14 ( net4 net442)  R=2.9E5
T15 ( net442 net442 0 0)  nfet  L=1.42E-6 W=6.92E-6
T16 ( net256 net442 0 0)  nfet  L=1.42E-6 W=6.92E-6
T17 (net137 net432 net432 0) nfet L=1.11E-6 W=6.44E-6
T18 (net433 net432 net432 0) nfet L=0.19E-6 W=7.56E-6
R19 ( net297 net441)  R=5.5E0
T20 ( net441 net441 net162 vdd!)  pfet  L=4.58E-6 W=4.00E-6
T21 ( net162 net203 vdd! vdd!)  pfet  L=4.58E-6 W=4.00E-6
T22 ( net203 net203 vdd! vdd!)  pfet  L=4.58E-6 W=4.00E-6
T23 ( net362 net441 net203 vdd!)  pfet  L=4.58E-6 W=4.00E-6
R24 (vdd! net396) R=2.2E1
T25 (net263 0 0 0) nfet L=8.02E-6 W=8.39E-6
R26 ( net463 net193)  R=3.0E2
T27 ( net193 net113 vdd! vdd!)  pfet  L=5.70E-6 W=0.99E-6
T28 ( net303 net113 vdd! vdd!)  pfet  L=5.70E-6 W=0.99E-6
T29 ( 0 net193 net113 vdd!)  pfet  L=5.70E-6 W=0.99E-6
T30 (vdd! net134 net134 0) nfet L=9.66E-6 W=8.82E-6
T31 (net401 net219 net219 0) nfet L=7.34E-6 W=6.21E-6
C32 (net466 net509) C=5.7E-11
R33 ( net432 net327)  R=0.6E2
T34 ( net327 net429 0 0)  nfet  L=7.12E-6 W=0.52E-6
T35 ( net32 net429 0 0)  nfet  L=7.12E-6 W=0.52E-6
T36 ( net440 net327 net32 0)  nfet  L=7.12E-6 W=0.52E-6
T37 (net443 net43 net43 0) pfet L=0.70E-6 W=2.69E-6
R38 ( net177 net315)  R=1.3E2
T39 ( net315 net315 vdd! vdd!)  pfet  L=1.13E-6 W=0.90E-6
T40 ( net137 net315 vdd! vdd!)  pfet  L=1.13E-6 W=0.90E-6
T41 (net384 net358 net358 0) pfet L=9.77E-6 W=3.22E-6
T42 (net484 net240 net240 0) pfet L=7.26E-6 W=4.95E-6
R43 ( net61 net313)  R=6.4E0
T44 ( net313 net313 0 0)  nfet  L=1.23E-6 W=1.35E-6
T45 ( net481 net313 0 0)  nfet  L=1.23E-6 W=1.35E-6
C46 (net498 net262) C=6.0E-11
T47 (net151 net50 net50 0) pfet L=5.28E-6 W=8.88E-6
R48 ( net346 net272)  R=5.4E2
T49 ( net272 net272 0 0)  nfet  L=0.69E-6 W=0.51E-6
T50 ( net520 net272 0 0)  nfet  L=0.69E-6 W=0.51E-6
T51 (net207 net521 net521 0) nfet L=3.85E-6 W=3.01E-6
R52 ( net523 net504)  R=9.1E5
T53 ( net504 net34 0 0)  nfet  L=9.61E-6 W=1.76E-6
T54 ( net245 net34 0 0)  nfet  L=9.61E-6 W=1.76E-6
T55 ( net503 net504 net245 0)  nfet  L=9.61E-6 W=1.76E-6
T56 (net38 net406 net406 0) nfet L=6.77E-6 W=0.23E-6
T57 (net107 net288 net288 0) pfet L=9.62E-6 W=5.30E-6
R58 (net445 net299) R=7.0E1
C59 (net282 net85) C=6.1E-8
R60 ( net452 net82)  R=0.2E2
T61 ( net82 net82 net146 vdd!)  pfet  L=7.24E-6 W=4.96E-6
T62 ( net146 net77 vdd! vdd!)  pfet  L=7.24E-6 W=4.96E-6
T63 ( net77 net77 vdd! vdd!)  pfet  L=7.24E-6 W=4.96E-6
T64 ( net76 net82 net77 vdd!)  pfet  L=7.24E-6 W=4.96E-6
T65 (net445 net408 net408 0) nfet L=0.26E-6 W=2.78E-6
T66 ( net222 net222 vdd! vdd!)  pfet  L=0.61E-6 W=6.76E-6
T67 ( net252 net222 vdd! vdd!)  pfet  L=0.61E-6 W=6.76E-6
R68 ( net252 0)  R=7.3E0
T69 (net197 net4 net4 0) nfet L=9.36E-6 W=4.01E-6
R70 ( net437 net265)  R=0.9E3
T71 ( net265 net265 0 0)  nfet  L=6.85E-6 W=9.64E-6
T72 ( net111 net265 0 0)  nfet  L=6.85E-6 W=9.64E-6
T73 (net397 net323 net323 0) pfet L=6.18E-6 W=7.45E-6
R74 ( net292 net240)  R=4.1E1
T75 ( net240 net295 0 0)  nfet  L=7.99E-6 W=5.40E-6
T76 ( net164 net295 0 0)  nfet  L=7.99E-6 W=5.40E-6
T77 ( vdd! net240 net295 0)  nfet  L=7.99E-6 W=5.40E-6
C78 (net136 net158) C=5.7E-10
R79 ( net363 net355)  R=2.6E3
T80 ( net355 net355 vdd! vdd!)  pfet  L=4.84E-6 W=6.56E-6
T81 ( net383 net355 vdd! vdd!)  pfet  L=4.84E-6 W=6.56E-6
C82 (net159 net158) C=8.7E-11
C83 (net172 net302) C=3.8E-6
R84 ( net101 net349)  R=5.6E0
T85 ( net349 net349 vdd! vdd!)  pfet  L=6.31E-6 W=2.05E-6
T86 ( net475 net349 vdd! vdd!)  pfet  L=6.31E-6 W=2.05E-6
T87 (net158 net385 net385 0) pfet L=5.10E-6 W=5.20E-6
T88 ( net277 net277 vdd! vdd!)  pfet  L=5.53E-6 W=2.37E-6
T89 ( net280 net277 vdd! vdd!)  pfet  L=5.53E-6 W=2.37E-6
R90 ( net280 net223)  R=6.0E6
R91 (net37 net207) R=10.0E2
R92 ( net495 net346)  R=9.9E6
T93 ( net346 net200 0 0)  nfet  L=7.53E-6 W=3.21E-6
T94 ( net256 net200 0 0)  nfet  L=7.53E-6 W=3.21E-6
T95 ( net438 net346 net256 0)  nfet  L=7.53E-6 W=3.21E-6
C96 (net171 net29) C=4.5E-11
T97 (net284 net304 net304 0) nfet L=5.65E-6 W=1.68E-6
R98 ( net426 net249)  R=9.3E4
T99 ( net249 net266 0 0)  nfet  L=2.90E-6 W=2.97E-6
T100 ( net439 net266 0 0)  nfet  L=2.90E-6 W=2.97E-6
T101 ( vdd! net249 net266 0)  nfet  L=2.90E-6 W=2.97E-6
T102 (net402 net170 net170 0) nfet L=3.90E-6 W=4.21E-6
R103 ( net110 net493)  R=4.2E1
T104 ( net493 net493 net188 0)  nfet  L=7.34E-6 W=4.72E-6
T105 ( net188 net243 0 0)  nfet  L=7.34E-6 W=4.72E-6
T106 ( net243 net243 0 0)  nfet  L=7.34E-6 W=4.72E-6
T107 ( net108 net493 net243 0)  nfet  L=7.34E-6 W=4.72E-6
T108 (net98 net74 net74 0) nfet L=1.78E-6 W=1.56E-6
C109 (net301 net131) C=4.2E-10
R110 ( net197 net213)  R=6.3E1
T111 ( net213 net191 vdd! vdd!)  pfet  L=9.83E-6 W=4.69E-6
T112 ( net419 net191 vdd! vdd!)  pfet  L=9.83E-6 W=4.69E-6
T113 ( net87 net213 net419 vdd!)  pfet  L=9.83E-6 W=4.69E-6
T114 (net523 net344 net344 0) nfet L=0.88E-6 W=4.43E-6
R115 ( net329 net360)  R=4.2E6
T116 ( net360 net447 0 0)  nfet  L=7.93E-6 W=9.59E-6
T117 ( net233 net447 0 0)  nfet  L=7.93E-6 W=9.59E-6
T118 ( vdd! net360 net447 0)  nfet  L=7.93E-6 W=9.59E-6
C119 (net291 net435) C=6.6E-12
R120 ( net283 net479)  R=3.6E6
T121 ( net479 net56 vdd! vdd!)  pfet  L=5.78E-6 W=4.17E-6
T122 ( net154 net56 vdd! vdd!)  pfet  L=5.78E-6 W=4.17E-6
T123 ( 0 net479 net56 vdd!)  pfet  L=5.78E-6 W=4.17E-6
T124 (net267 0 0 0) pfet L=8.37E-6 W=1.22E-6
R125 ( net499 net41)  R=5.3E3
T126 ( net41 net41 net181 vdd!)  pfet  L=3.53E-6 W=8.66E-6
T127 ( net181 net153 vdd! vdd!)  pfet  L=3.53E-6 W=8.66E-6
T128 ( net153 net153 vdd! vdd!)  pfet  L=3.53E-6 W=8.66E-6
T129 ( 0 net41 net153 vdd!)  pfet  L=3.53E-6 W=8.66E-6
C130 (net98 vdd!) C=9.0E-7
R131 ( net79 net196)  R=3.4E5
T132 ( net196 net44 0 0)  nfet  L=7.50E-6 W=6.74E-6
T133 ( net376 net44 0 0)  nfet  L=7.50E-6 W=6.74E-6
T134 ( net316 net196 net376 0)  nfet  L=7.50E-6 W=6.74E-6
T135 (net106 net352 net352 0) pfet L=5.94E-6 W=8.72E-6
C136 (net494 net4) C=6.1E-7
R137 ( vdd! net4)  R=1.0E4
T138 ( net4 net397 0 0)  nfet  L=1.99E-6 W=4.65E-6
T139 ( net202 net397 0 0)  nfet  L=1.99E-6 W=4.65E-6
T140 ( vdd! net4 net397 0)  nfet  L=1.99E-6 W=4.65E-6
T141 (vdd! net430 net430 0) pfet L=5.30E-6 W=4.56E-6
R142 ( net306 net227)  R=5.4E6
T143 ( net227 net227 net350 0)  nfet  L=3.60E-6 W=3.75E-6
T144 ( net350 net293 0 0)  nfet  L=3.60E-6 W=3.75E-6
T145 ( net293 net293 0 0)  nfet  L=3.60E-6 W=3.75E-6
T146 ( 0 net227 net293 0)  nfet  L=3.60E-6 W=3.75E-6
T147 (net160 net144 net144 0) pfet L=0.66E-6 W=4.23E-6
R148 ( vdd! net158)  R=3.1E0
T149 ( net158 net158 net123 0)  nfet  L=0.16E-6 W=1.79E-6
T150 ( net123 net50 0 0)  nfet  L=0.16E-6 W=1.79E-6
T151 ( net50 net50 0 0)  nfet  L=0.16E-6 W=1.79E-6
T152 ( net5 net158 net50 0)  nfet  L=0.16E-6 W=1.79E-6
T153 (net94 net98 net98 0) nfet L=6.77E-6 W=2.43E-6
T154 (net303 net337 net337 0) nfet L=6.76E-6 W=4.04E-6
C155 (net358 net326) C=8.5E-10
R156 (net509 net412) R=3.3E6
T157 (net125 net15 net15 0) nfet L=5.49E-6 W=7.85E-6
R158 ( vdd! net462)  R=7.5E5
T159 ( net462 net462 vdd! vdd!)  pfet  L=5.34E-6 W=9.23E-6
T160 ( net428 net462 vdd! vdd!)  pfet  L=5.34E-6 W=9.23E-6
R161 (net142 net480) R=9.4E2
T162 (vdd! net521 net521 0) pfet L=7.42E-6 W=7.15E-6
R163 ( net273 net129)  R=3.0E1
T164 ( net129 net129 net215 0)  nfet  L=4.02E-6 W=7.32E-6
T165 ( net215 net230 0 0)  nfet  L=4.02E-6 W=7.32E-6
T166 ( net230 net230 0 0)  nfet  L=4.02E-6 W=7.32E-6
T167 ( net246 net129 net230 0)  nfet  L=4.02E-6 W=7.32E-6
C168 (net164 net74) C=1.2E-11
T169 (net306 net119 net119 0) nfet L=1.56E-6 W=8.66E-6
T170 (net528 net126 net126 0) nfet L=2.16E-6 W=9.20E-6
T171 ( net104 net104 vdd! vdd!)  pfet  L=2.68E-6 W=2.39E-6
T172 ( net502 net104 vdd! vdd!)  pfet  L=2.68E-6 W=2.39E-6
R173 ( net502 net152)  R=4.6E1
T174 (net177 net259 net259 0) pfet L=7.13E-6 W=4.84E-6
R175 (net489 net132) R=5.7E2
C176 (net149 net248) C=6.4E-12
T177 (net509 net329 net329 0) nfet L=2.36E-6 W=1.99E-6
R178 ( net212 net286)  R=6.8E2
T179 ( net286 net286 net46 vdd!)  pfet  L=2.52E-6 W=4.52E-6
T180 ( net46 net311 vdd! vdd!)  pfet  L=2.52E-6 W=4.52E-6
T181 ( net311 net311 vdd! vdd!)  pfet  L=2.52E-6 W=4.52E-6
T182 ( net339 net286 net311 vdd!)  pfet  L=2.52E-6 W=4.52E-6
R183 (net13 net138) R=7.0E3
R184 ( net15 net455)  R=9.8E4
T185 ( net455 net364 vdd! vdd!)  pfet  L=6.37E-6 W=0.52E-6
T186 ( net409 net364 vdd! vdd!)  pfet  L=6.37E-6 W=0.52E-6
T187 ( net120 net455 net409 vdd!)  pfet  L=6.37E-6 W=0.52E-6
C188 (net427 net460) C=9.2E-11
T189 ( net205 net205 vdd! vdd!)  pfet  L=2.89E-6 W=4.44E-6
T190 ( net171 net205 vdd! vdd!)  pfet  L=2.89E-6 W=4.44E-6
R191 ( net171 net263)  R=2.8E0
C192 (net526 net299) C=6.8E-7
T193 (net372 net74 net74 0) pfet L=6.16E-6 W=7.68E-6
R194 ( net385 net517)  R=1.9E3
T195 ( net517 net517 net472 vdd!)  pfet  L=1.60E-6 W=8.36E-6
T196 ( net472 net288 vdd! vdd!)  pfet  L=1.60E-6 W=8.36E-6
T197 ( net288 net288 vdd! vdd!)  pfet  L=1.60E-6 W=8.36E-6
T198 ( net500 net517 net288 vdd!)  pfet  L=1.60E-6 W=8.36E-6
C199 (net91 net513) C=2.7E-13
T200 (net86 net338 net338 0) nfet L=2.47E-6 W=0.95E-6
T201 (net324 net381 net381 0) pfet L=9.20E-6 W=3.29E-6
R202 ( net92 net383)  R=0.7E6
T203 ( net383 net463 0 0)  nfet  L=2.31E-6 W=1.81E-6
T204 ( net500 net463 0 0)  nfet  L=2.31E-6 W=1.81E-6
T205 ( net379 net383 net500 0)  nfet  L=2.31E-6 W=1.81E-6
T206 (net157 net139 net139 0) pfet L=4.70E-6 W=6.91E-6
T207 (net119 net412 net412 0) pfet L=3.35E-6 W=1.76E-6
T208 (net132 net157 net157 0) pfet L=7.00E-6 W=7.97E-6
R209 ( net473 net49)  R=8.9E0
T210 ( net49 net49 0 0)  nfet  L=3.26E-6 W=3.37E-6
T211 ( net514 net49 0 0)  nfet  L=3.26E-6 W=3.37E-6
R212 (net204 0) R=9.9E2
R213 (net414 net386) R=6.5E6
T214 (net261 net95 net95 0) pfet L=6.57E-6 W=3.49E-6
R215 ( net348 net316)  R=2.5E1
T216 ( net316 net307 vdd! vdd!)  pfet  L=5.65E-6 W=5.00E-6
T217 ( net417 net307 vdd! vdd!)  pfet  L=5.65E-6 W=5.00E-6
T218 ( net21 net316 net417 vdd!)  pfet  L=5.65E-6 W=5.00E-6
T219 (net222 net13 net13 0) pfet L=1.15E-6 W=3.06E-6
T220 ( net480 net480 vdd! vdd!)  pfet  L=5.43E-6 W=9.40E-6
T221 ( net238 net480 vdd! vdd!)  pfet  L=5.43E-6 W=9.40E-6
R222 ( net238 net13)  R=2.8E6
T223 (net454 net375 net375 0) nfet L=1.22E-6 W=0.53E-6
R224 (net285 net382) R=3.3E3
R225 ( net416 net510)  R=3.2E4
T226 ( net510 net15 0 0)  nfet  L=2.64E-6 W=1.19E-6
T227 ( net139 net15 0 0)  nfet  L=2.64E-6 W=1.19E-6
T228 ( 0 net510 net139 0)  nfet  L=2.64E-6 W=1.19E-6
C229 (net410 net473) C=1.0E-11
T230 (net433 net487 net487 0) nfet L=5.71E-6 W=0.69E-6
R231 ( net382 net321)  R=8.4E6
T232 ( net321 net321 vdd! vdd!)  pfet  L=2.89E-6 W=9.19E-6
T233 ( net242 net321 vdd! vdd!)  pfet  L=2.89E-6 W=9.19E-6
T234 (net128 vdd! vdd! 0) nfet L=7.53E-6 W=7.98E-6
R235 (net131 net127) R=3.6E5
R236 (net87 net187) R=8.7E4
T237 (net87 net262 net262 0) nfet L=0.66E-6 W=0.64E-6
T238 (net351 net388 net388 0) nfet L=7.08E-6 W=2.06E-6
T239 (net101 net484 net484 0) nfet L=9.96E-6 W=6.82E-6
T240 (net424 net67 net67 0) pfet L=5.49E-6 W=0.95E-6
R241 ( net195 net400)  R=0.8E3
T242 ( net400 net290 vdd! vdd!)  pfet  L=7.05E-6 W=7.06E-6
T243 ( net63 net290 vdd! vdd!)  pfet  L=7.05E-6 W=7.06E-6
T244 ( net111 net400 net63 vdd!)  pfet  L=7.05E-6 W=7.06E-6
T245 (0 net392 net392 0) nfet L=5.17E-6 W=7.07E-6
T246 (net11 net393 net393 0) nfet L=1.19E-6 W=2.06E-6
R247 ( net320 net298)  R=4.4E2
T248 ( net298 net298 vdd! vdd!)  pfet  L=0.46E-6 W=2.81E-6
T249 ( vdd! net298 vdd! vdd!)  pfet  L=0.46E-6 W=2.81E-6
R250 (net108 net66) R=0.9E1
R251 ( net51 net309)  R=6.4E5
T252 ( net309 net473 vdd! vdd!)  pfet  L=1.26E-6 W=2.86E-6
T253 ( vdd! net473 vdd! vdd!)  pfet  L=1.26E-6 W=2.86E-6
T254 ( 0 net309 net473 vdd!)  pfet  L=1.26E-6 W=2.86E-6
C255 (net48 net426) C=3.1E-8
R256 ( net343 net369)  R=4.7E2
T257 ( net369 net369 0 0)  nfet  L=7.26E-6 W=6.17E-6
T258 ( net428 net369 0 0)  nfet  L=7.26E-6 W=6.17E-6
C259 (net68 net480) C=10.0E-10
R260 (net90 0) R=2.5E0
T261 (0 net401 net401 0) nfet L=2.09E-6 W=0.94E-6
R262 ( net107 net132)  R=5.1E3
T263 ( net132 net131 0 0)  nfet  L=0.82E-6 W=1.90E-6
T264 ( net88 net131 0 0)  nfet  L=0.82E-6 W=1.90E-6
T265 ( net103 net132 net88 0)  nfet  L=0.82E-6 W=1.90E-6
T266 (vdd! net285 net285 0) nfet L=2.49E-6 W=8.79E-6
R267 ( net22 net54)  R=8.8E5
T268 ( net54 net54 0 0)  nfet  L=5.65E-6 W=6.95E-6
T269 ( net347 net54 0 0)  nfet  L=5.65E-6 W=6.95E-6
T270 (net528 net75 net75 0) nfet L=1.91E-6 W=7.60E-6
R271 (net211 net218) R=7.5E6
T272 ( net87 net87 0 0)  nfet  L=8.38E-6 W=9.57E-6
T273 ( net251 net87 0 0)  nfet  L=8.38E-6 W=9.57E-6
R274 ( net251 net488)  R=8.5E2
T275 (net160 net432 net432 0) nfet L=0.50E-6 W=7.48E-6
R276 ( net411 net247)  R=3.4E0
T277 ( net247 net439 0 0)  nfet  L=8.00E-6 W=1.37E-6
T278 ( net326 net439 0 0)  nfet  L=8.00E-6 W=1.37E-6
T279 ( net357 net247 net326 0)  nfet  L=8.00E-6 W=1.37E-6
C280 (net246 net354) C=4.6E-10
T281 (net10 net329 net329 0) pfet L=9.69E-6 W=1.84E-6
R282 ( vdd! net110)  R=7.8E1
T283 ( net110 net110 net317 0)  nfet  L=4.92E-6 W=6.11E-6
T284 ( net317 net382 0 0)  nfet  L=4.92E-6 W=6.11E-6
T285 ( net382 net382 0 0)  nfet  L=4.92E-6 W=6.11E-6
T286 ( net33 net110 net382 0)  nfet  L=4.92E-6 W=6.11E-6
T287 (net498 net513 net513 0) pfet L=4.90E-6 W=2.77E-6
T288 (net466 net6 net6 0) nfet L=3.95E-6 W=3.28E-6
T289 (net55 net477 net477 0) nfet L=9.31E-6 W=3.83E-6
T290 (net232 net231 net231 0) nfet L=6.22E-6 W=1.21E-6
C291 (net277 0) C=8.7E-14
C292 (net225 net258) C=5.5E-14
C293 (net9 net204) C=8.3E-7
T294 (net242 net270 net270 0) nfet L=2.26E-6 W=9.07E-6
T295 (net513 net23 net23 0) pfet L=2.09E-6 W=9.18E-6
T296 (net476 net269 net269 0) nfet L=0.89E-6 W=4.29E-6
T297 (net51 net345 net345 0) pfet L=2.40E-6 W=3.62E-6
T298 (vdd! net33 net33 0) nfet L=2.89E-6 W=7.15E-6
T299 (net320 net348 net348 0) pfet L=9.60E-6 W=0.74E-6
T300 (net381 vdd! vdd! 0) nfet L=1.48E-6 W=4.38E-6
C301 (net320 net233) C=0.5E-6
C302 (net73 net285) C=2.2E-9
C303 (net388 net237) C=1.2E-7
C304 (net497 0) C=1.7E-5
R305 (net343 net475) R=5.9E1
T306 (net333 0 0 0) nfet L=0.59E-6 W=9.91E-6
R307 (net40 net391) R=7.9E0
C308 (net70 net72) C=5.8E-8
C309 (0 net175) C=3.9E-12
C310 (net273 0) C=0.9E-12
R311 (net68 net276) R=1.1E3
R312 (0 net65) R=3.4E5
C313 (0 net452) C=5.5E-10
T314 (net204 net212 net212 0) pfet L=2.64E-6 W=1.45E-6
R315 (net250 net477) R=8.8E0
R316 (net264 net195) R=6.4E0
C317 (net450 net345) C=4.7E-14
R318 (net503 vdd!) R=8.9E6
C319 (net336 net426) C=6.7E-8
T320 (vdd! net320 net320 0) pfet L=5.16E-6 W=3.84E-6
T321 (net289 net52 net52 0) nfet L=1.32E-6 W=0.89E-6
C322 (vdd! 0) C=2.3E-7
T323 (net114 net33 net33 0) nfet L=0.60E-6 W=8.27E-6
T324 (net59 net279 net279 0) pfet L=1.66E-6 W=4.24E-6
R325 (net416 net519) R=4.8E3
R326 (net322 vdd!) R=3.3E3
C327 (net438 net449) C=0.7E-10
R328 (net61 net509) R=0.2E3
C329 (net468 net445) C=7.8E-5
C330 (net378 net521) C=1.9E-10
T331 (net208 net31 net31 0) pfet L=6.41E-6 W=8.20E-6
T332 (net218 vdd! vdd! 0) nfet L=9.45E-6 W=7.58E-6
R333 (net319 vdd!) R=2.0E0
C334 (net414 net179) C=3.5E-14
C335 (net338 net285) C=4.2E-9
R336 (net170 net100) R=3.2E4
T337 (net497 net155 net155 0) pfet L=5.29E-6 W=7.51E-6
C338 (net51 vdd!) C=6.4E-5
T339 (net250 net232 net232 0) nfet L=3.01E-6 W=3.72E-6
T340 (net368 net332 net332 0) pfet L=3.17E-6 W=8.76E-6
C341 (vdd! net524) C=4.2E-7
T342 (net329 net526 net526 0) nfet L=8.75E-6 W=3.21E-6
T343 (0 net281 net281 0) nfet L=5.76E-6 W=5.20E-6
T344 (net505 net257 net257 0) nfet L=8.77E-6 W=5.33E-6
R345 (net182 net433) R=6.7E4
R346 (net138 net319) R=0.6E0
T347 (0 net434 net434 0) pfet L=6.46E-6 W=4.70E-6
R348 (net103 net109) R=0.5E4
T349 (net116 net291 net291 0) pfet L=3.18E-6 W=2.01E-6
C350 (net29 net372) C=3.7E-11
C351 (net166 net237) C=9.4E-6
R352 (vdd! net121) R=9.4E5
T353 (net379 net410 net410 0) pfet L=1.57E-6 W=2.21E-6
T354 (net262 net459 net459 0) pfet L=3.63E-6 W=3.97E-6
R355 (net229 net415) R=1.8E0
T356 (vdd! net62 net62 0) nfet L=3.86E-6 W=2.49E-6
T357 (vdd! vdd! vdd! 0) pfet L=8.67E-6 W=6.04E-6
R358 (net277 net87) R=4.8E5
T359 (net481 net457 net457 0) pfet L=3.81E-6 W=0.15E-6
C360 (net385 net165) C=3.2E-6
R361 (net260 net406) R=2.0E6
T362 (net468 net130 net130 0) nfet L=7.40E-6 W=5.11E-6
T363 (net353 net459 net459 0) nfet L=7.76E-6 W=4.09E-6
T364 (net100 net253 net253 0) nfet L=1.75E-6 W=6.73E-6
T365 (net314 net208 net208 0) nfet L=5.39E-6 W=4.31E-6
C366 (0 net6) C=10.0E-7
T367 (net237 net43 net43 0) pfet L=6.06E-6 W=8.80E-6
C368 (net312 net390) C=4.4E-13
T369 (net378 net69 net69 0) nfet L=1.84E-6 W=1.67E-6
T370 (0 net105 net105 0) pfet L=7.77E-6 W=4.32E-6

